US07319102B1
Preparation of (2-chlorophenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone (20):
To a solution of (2-chloro-phenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone, 19, (0.13 g, 0.34 mmol) in THF:methanol (4 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (0.73 g, 1.19 mmol) in H2O (4 mL). After stirring the reaction for 1 hour at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is twice extracted with CHCl3 and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo to afford 0.12 g of the desired product which is used without further purification.

reactant | (2-chloro-phenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone | ClC1=C(C=CC=C1)C(=O)C1=CC2=C(N=C(N=C2)SC)N1C=1N(N=C(C1)C)C | C19H16ClN5OS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 4 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | (2-chlorophenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone | 0.12 g | ClC1=C(C=CC=C1)C(=O)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N1C=1N(N=C(C1)C)C | C19H16ClN5O3S
